US07709645B2
Step 2: Synthesis of 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-N-(2-hydroxy-ethyl)-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N-methyl-benzamide
To a solution of 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid (63 mg, 0.1 mmol) in anhydrous THF (1 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (57 mg, 0.15 mmol), diisopropylethylamine (52 μL, 0.3 mmol), and 2-methylaminoethanol (11 mg, 0.15 mmol). The reaction solution was irradiated in a Personal Chemistry Optimizer at 100° C. for 2 min and 200 μL of 50% w/v aqueous potassium hydroxide was added. The mixture was stirred for 15 h and 100 μL of glacial acetic acid was added. The suspension was dissolved in DMSO and water and directly purified by reverse-phase HPLC to afford the title compound as a white powder (5 mg, 0.009 mmol, 9% yield). 1H-NMR (500 MHz, d6-DMSO, 70° C.) δ=8.48 (d, J=2 Hz, 1H), 8.11 (d, J=2.0 Hz, 1H), 7.67 (s, 1H), 7.60 (dd, J=7 Hz, J2=2 Hz, 1H), 7.47 (dd, J1=14 Hz, J2=2.0 Hz, 1H), 7.28 (m, 1H), 7.22 (m, 1H), 7.12 (d, J=8.0 Hz, 1H), 7.05 (t, J=8.0 Hz, 1H), 4.55 (m, 1H), 3.99 (m, 1H), 3.82 (s, 3H), 3.11 (m, 1H), 2.97 (s, 3H), 2.9 (m, 3H), 2.76 (m, 2H), 2.66 (m, 2H), 1.92 (m, 4H), 1.56 (m, 4H); MS: m/z 533 [MH+].

reactant | 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.1 mmol, 63 mg | FC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)NC2CCC(CC2)O | C34H32FN3O6S
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.15 mmol, 57 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.3 mmol, 52 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methylaminoethanol | 0.15 mmol, 11 mg | CNCCO | C3H9NO
reactant | potassium hydroxide | [OH-].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | acetic acid | 100 μL | C(C)(=O)O | C2H4O2
product | 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-N-(2-hydroxy-ethyl)-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N-methyl-benzamide | 0.009 mmol, 5 mg, 9% yield | FC=1C(=C(C(=O)N(C)CCO)C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)NC2CCC(CC2)O | C30H33FN4O4
